US06080754
A solution of 4-benzyloxyphenacylbromide (15.7 g, 51 mmol) and 2-n-propylpyridine (12 ml, 108 mmol) in 75 ml of dry acetone was heated to reflux for four days. The mixture was cooled and the precipitate was isolated and dried to afford 17.34 g of 1-(4-benzyloxyphenacyl)-2-n-propylpyridinium bromide. The quaternary salt (17.34 g) was suspended in 250 ml of water and sodium hydrogen carbonate (17.1 g) was added. The mixture was refluxed for three hours. The resulting precipitate was filtered off, washed with water and dried to an overall yield of 12.86 g (77%) of 2-(4-benzyloxyphenyl)-1-ethylindolizine. M.p. 106-108° C. MS(SP): m/z 328 (M+1). 1H-NMR (DMSO-d6, 200 MHz) δ: 1.10 (t, 3H); 2.81 (q, 2H); 5.13 (s, 2H); 6.48 (dd, 1H); 6.61 (dd, 1H); 7.08 (d, 2H); 7.31-7.45 (m, 6H); 7.49 (d, 2H); 7.56 (s, 1H); 8.13 (d, 1H). Analysis: Calculated for C23H21N1O1 : C, 84.37; H, 6.48; N, 4.28%; Found: C, 84.33; H, 6.51; N, 4.17%.

reactant | 4-benzyloxyphenacylbromide | 51 mmol, 15.7 g | C(C1=CC=CC=C1)OC1=CC=C(C(CBr)=O)C=C1 | C15H13BrO2
reactant | 2-n-propylpyridine | 108 mmol, 12 ml | C(CC)C1=NC=CC=C1 | C8H11N
solvent | acetone | 75 ml | CC(=O)C | C3H6O
product | 1-(4-benzyloxyphenacyl)-2-n-propylpyridinium bromide | 17.34 g | [Br-].C(C1=CC=CC=C1)OC1=CC=C(C(C[N+]2=C(C=CC=C2)CCC)=O)C=C1 | InChI=1S/C23H24NO2.BrH/c1-2-8-21-11-6-7-16-24(21)17-23(25)20-12-14-22(15-13-20)26-18-19-9-4-3-5-10-19;/h3-7,9-16H,2,8,17-18H2,1H3;1H/q+1;/p-1
